US07666866B2
Methyl 4-methoxysalicylate (7.05 g, 38.7 mmol) and anhydrous potassium carbonate (16.03 g, 116 mmol) were stirred together in 30 ml dimethylformamide (DMF) for a few minutes at room temperature. To the stirring mixture was added 2-bromo-N-(tert-butoxycarbonyl)ethylamine (26.0 g, 116 mmol) in 30 ml DMF and 500 mg of freshly ground potassium iodide, then the mixture was placed under nitrogen and stirred at room temperature for several days. The reaction mixture was diluted with water (250 ml) and extracted with two 250 ml portions of dichloromethane. The organic extracts were pooled, washed (twice each with 1 N NaOH, water, and brine), then dried over Na2SO4 and concentrated in vacuo to afford a colorless oil. The oil was purified on a 1200 ml silica column packed and eluted with 95:5 CH2Cl2:EtOAc to yield methyl 2-[2-(tert-butoxycarbonylamino)ethoxy]-4-methoxybenzoate (10.29 g, 81%) as a viscous colorless oil.

reactant | Methyl 4-methoxysalicylate | 38.7 mmol, 7.05 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | potassium carbonate | 116 mmol, 16.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-(tert-butoxycarbonyl)ethylamine | 116 mmol, 26.0 g | BrC(CN)C(=O)OC(C)(C)C | C7H14BrNO2
reactant | potassium iodide | [I-].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | DMF | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | methyl 2-[2-(tert-butoxycarbonylamino)ethoxy]-4-methoxybenzoate | 10.29 g, 81% | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)OC)C=CC(=C1)OC | C16H23NO6
